US04112102
The anhydride prepared in Part B (1.76 g) was added to a solution of dl-6-(m-aminophenyl)-2,3,5,6-tetrahydroimidazo[2,1-b] thiazole (880 mg) in cold (0°-10°) aqueous methanol (16 ml methanol/4 ml H2O); the pH of the methanol solution having been adjusted to 5 with dilute hydrochloric acid prior to the addition of the anhydride. The resulting mixture was stirred at room temperature for 24 hours. Methylene chloride (50 ml) and water (5 ml) were then added and the pH was adjusted to 10 with 2N sodium hydroxide. The organic layer was separate, washed with water at pH 6 containing dilute hydrochloric acid to extract unreacted amine into the aqueous phase, separated, and repeatedly washed with dilute aqueous hydrochloric acid at pH 1 to remove further impurities. The aqueous phases from the repeated washings with the pH 1 hydrochloric acid were combined, basified with 2N sodium hydroxide to pH 10, and extracted with methylene chloride. After separation, the organic phase was dried, and the solvent removed by evaporation to yield a white solid, dl-6-(m-(6-bromonicotinoylamino)phenyl9-2,3,5,6-tetrahydroimidazo[2,1-b]thiazole, which was recrystallized from acetone. The yield of the product was 204 mg, melting at 149°-153°, molecular weight from mass spectral data 403.

reactant | dl-6 (m-aminophenyl)-2,3,5,6-tetrahydroimidazo[2,1-b] thiazole | 880 mg | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.NC=1C=C(C=CC1)C1CN2C(S1)=NCC2
reactant | hydrochloric acid | Cl | ClH
reactant | Methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 16 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | dl-6 | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O | C26H42N4O4
